US04667032
2-(n-Butylthio)-3H-phenothiazin-3-one
To a solution of 3H-phenothiazin-3-one (0.64 g) in 75 ml methanol was added triethylamine (1.0 ml) and n-butanethiol (0.58 ml). The mixture was stirred at room temperature for 48 hours. Then 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (0.67 g) was added. The mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo. The residue was chromatographed on neutral alumina (Act III) and eluted with 15% EtOAc/hexane to afford the title compound (0.4 g), m.p. 133° C.

reactant | 3H-phenothiazin-3-one | 0.64 g | C1=CC(C=C2SC3=CC=CC=C3N=C12)=O | C12H7NOS
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | n-butanethiol | 0.58 ml | C(CCC)S | C4H10S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.67 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | methanol | 75 ml | CO | CH4O
product | 2-(n-Butylthio)-3H-phenothiazin-3-one | 0.4 g | C(CCC)SC1=CC2=NC3=CC=CC=C3SC2=CC1=O | C16H15NOS2
